US06080870
Step B: 4-(2'-Aminomethylphenyl)hydroxymethylbenzene
To a solution of 4-(2'-cyanophenyl)benzoic acid methyl ester (0.428 g, 1.804 mmol) in tetrahydrofuran (14.3 mL) at 0° C. was added 1.0 M lithium aluminum hydride in tetrahydrofuran (3.61 mL, 3.61 mmol) over 10 minutes. The reaction was allowed to stir at ambient temperature for 3 hours, then warmed to 45° C. for 3 hours, cooled and quenched by dropwise addition of saturated Na2SO4 (0.46 mL). The reaction was diluted with diethylether, Na2SO4 was added, the mixture filtered through a pad of Celite and the filtrate evaporated in vacuo to afford the title compound.

reactant | 4-(2'-cyanophenyl)benzoic acid methyl ester | 1.804 mmol, 0.428 g | COC(C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O | C15H11NO2
reactant | lithium aluminum hydride | 1.0 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 14.3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.61 mmol, 3.61 mL | O1CCCC1 | C4H8O
product | 4-(2'-Aminomethylphenyl)hydroxymethylbenzene | NCC1=C(C=CC=C1)C1=CC=C(C=C1)CO | C14H15NO
